US08106190B2
1-(Pyrrolidin-1-ylcarbonyl)cyclohexanamine hydrochloride was added under ice-cooling to a THF solution of LAH, followed by heating under reflux for 3 hours. Sodium hydroxide aqueous solution and sodium sulfate were added to the reaction liquid, followed by filtering. By concentrating the filtrate under a reduced pressure, 1-(pyrrolidin-1-ylmethyl)cyclohexanamine was obtained.

reactant | 1-(Pyrrolidin-1-ylcarbonyl)cyclohexanamine hydrochloride | Cl.N1(CCCC1)C(=O)C1(CCCCC1)N
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Sodium hydroxide | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-(pyrrolidin-1-ylmethyl)cyclohexanamine | N1(CCCC1)CC1(CCCCC1)N | C11H22N2
